US07585886B2
4-Methoxybenzylamine was added to an aqueous solution of itaconic acid and heated under reflux for 12Hours. After completion of the reaction, this was cooled in an ice bath and mixed with 1 M hydrochloric acid, and the thus precipitated crystals were collected by filtration to obtain 1-(4-methoxybenzyl)-5-oxopyrrolidine-3-carboxylic acid as colorless crystals. EP: 250.

reactant | 4-Methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | hydrochloric acid | 1 M | Cl | ClH
product | 1-(4-methoxybenzyl)-5-oxopyrrolidine-3-carboxylic acid | COC1=CC=C(CN2CC(CC2=O)C(=O)O)C=C1 | C13H15NO4
